US05665777
A solution of O-tert-butyl 3-[4-(3-cyanomethylphenyl)phenoxy]propanohydroxamic acid (0.043 g, 0.12 mmol) in 1:1 trifluoroacetic acid-dichloromethane was stirred overnight at ambient temperature. The reaction mixture was filtered, concentrated in vacuo, and azeotroped with dichloromethane and dichloromethane-ethyl ether. Chromatography on silica gel (40:1, then 20:1 dichloromethane-methanol, both containing 0.25% acetic acid) gave 3-[4-(3-cyanomethylphenyl)phenoxy]propanohydroxamic acid (16 mg, 44%). 1H NMR (DMSO-d6) δ 2.45 (t, 2H, J=6.0 Hz), 4.08 (s, 2H), 4.23 (t, 2H, J=6.0 Hz), 7.02 (d, 2H, J=8.8 Hz), 7.29 (d, 1H, J=7.5 Hz), 7.46 (t, 1H, J=8.0 Hz), 7.57 (d, 1H, J=6 Hz), 7.58 (s, 1H), 7.60 (d, 2H, J=8.8 Hz); 8.84 (br s, 1H), 10.53 (br s, 1H). IR (microscope) 3245 (br), 2924 (m), 2251 (w), 1643 (s), 1608 (s), 1518 (s), i483 (m), 1244 (s), 784 (m) cm-1. MS (DCI/NH3) 314 (M+NH4)+. Anal. Calcd for C17H16N2O3 ·0.70 H2O·0.20 tBuOH: C, 66.04; H, 6.04; N, 8.65. Found: C, 65.93; H, 5.64; N, 8.30.

reactant | O-tert-butyl 3-[4-(3-cyanomethylphenyl)phenoxy]propanohydroxamic acid | 0.12 mmol, 0.043 g | C(C)(C)(C)ONC(CCOC1=CC=C(C=C1)C1=CC(=CC=C1)CC#N)=O | C21H24N2O3
reactant | trifluoroacetic acid dichloromethane | FC(C(=O)O)(F)F.ClCCl
product | 3-[4-(3-cyanomethylphenyl)phenoxy]propanohydroxamic acid | 16 mg, 44% | C(#N)CC=1C=C(C=CC1)C1=CC=C(OCCC(=O)NO)C=C1 | C17H16N2O3
